US08865712B2
h) N-[5-(2-Bromo-pyridin-4-yl)-2,2-dimethyl-[1,3]dioxan-5-yl]-2-chloro-acetamide
To a solution of 5-(2-bromo-pyridin-4-yl)-2,2-dimethyl-[1,3]dioxan-5-ylamine (9.5 g, 33.1 mmol) in DCM (100 ml) was added aq. Na2CO3 (8.7 g in 50 ml) at 0° C. and stirring continued for 5 min. Chloroacetyl chloride (2.9 ml, 36.41 mmol) was added to the resultant reaction mixture drop wise and stirred for 30 min at 0° C. Reaction mass was diluted with DCM (200 ml) and organic layer was washed successively washed with water, brine, dried over anhydrous Na2SO4 and concentrated under reduced pressure to obtain brown solid. The product was directly used in the next step with further purification. Yield=10.2 g (85%). TLC (50% ethyl acetate in hexane) Rf=0.15; LCMS: RtH8=0.55 [M+1]+=363.0 and 364.9.

reactant | 5-(2-bromo-pyridin-4-yl)-2,2-dimethyl-[1,3]dioxan-5-ylamine | 33.1 mmol, 9.5 g | BrC1=NC=CC(=C1)C1(COC(OC1)(C)C)N | C11H15BrN2O2
reactant | Na2CO3 | 50 ml, 8.7 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Chloroacetyl chloride | 36.41 mmol, 2.9 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | N-[5-(2-Bromo-pyridin-4-yl)-2,2-dimethyl-[1,3]dioxan-5-yl]-2-chloro-acetamide | BrC1=NC=CC(=C1)C1(COC(OC1)(C)C)NC(CCl)=O | C13H16BrClN2O3
